US07101886B2
2-[2-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-4,5-dimethoxy-phenylamine (160 mg, 0.4 mmol) was dissolved in 4 mL methylene chloride and 2-tolyl isocyanate (49 μL, 0.4 mmol) was added. The reaction mixtures were stirred at 40° C. overnight. Methylene chloride was added to the vial and the reaction mixture was washed with water. The product was recrystallized in isopropyl alcohol. 1-{2-[2-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-4,5-dimethoxy-phenyl}-3-o-tolyl-urea (168 mg) was isolated in 100% purity @ 254 nm; LCMS (APCI): 532 [M+H]+; mp 200° C.; 1H NMR (400 MHz, CDCl3) δ 8.20 (s, 1H), 7.87 (d, J=8 Hz, 1H), 7.80 (m, 2H), 7.47 (t, 1H), 7.33 (t, 1H), 7.18 (t, 1H), 7.11 (m, 2H), 7.02 (t, 1H), 6.74 (s, 1H), 6.35 (s, 1H), 3.88 (s, 3H), 3.87 (s, 3H), 3.61 (t, 4H), 2.77 (m, 2H), 2.73 (m, 4H), 2.67 (m, 2H), 2.12 (s, 3H).

reactant | 2-[2-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-4,5-dimethoxy-phenylamine | 0.4 mmol, 160 mg | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=C(C=C(C(=C2)OC)OC)N | C21H26N4O2S
reactant | 2-tolyl isocyanate | 0.4 mmol, 49 μL | C=1(C(=CC=CC1)N=C=O)C | C8H7NO
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-{2-[2-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-4,5-dimethoxy-phenyl}-3-o-tolyl-urea | 168 mg | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=C(C=C(C(=C2)OC)OC)NC(=O)NC2=C(C=CC=C2)C | C29H33N5O3S
